US06613781B2
Preparation of tert-Butyl 4-[(5-fluoro-1H-indol-3-yl)methyl]-1-piperidinecarboxylate
A solution of 5-fluoro-3-(4-piperidinylmethyl)-1H-indole (1.0 g, 4.3 mmol) and di-tert-butyl dicarbonate (0.94 g, 4.3 mmol) in 1N NaOH and dioxane is stirred under nitrogen at room temperature for 24 hr, quenched with water and diluted with ethyl acetate. The organic phase is separated, washed with H2O and saturated NaCl, dried over MgSO4, and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, EtOAc/hexane: 2/8) to afford the title compound as a white solid, 1.4 g, mp 144-145° C., identified by NMR and mass spectral analyses.

reactant | 5-fluoro-3-(4-piperidinylmethyl)-1H-indole | 4.3 mmol, 1.0 g | FC=1C=C2C(=CNC2=CC1)CC1CCNCC1 | C14H17FN2
reactant | di-tert-butyl dicarbonate | 4.3 mmol, 0.94 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1N | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-[(5-fluoro-1H-indol-3-yl)methyl]-1-piperidinecarboxylate | FC=1C=C2C(=CNC2=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C19H25FN2O2
